US04057629
In 30 ml of tetrahydrofuran was dissoled 1.0 g of methyl N-(4-chlorobenzyloxycarbonyl)tyrosinate. To the solution was slowly added 280 mg of sodium aluminium hydride with stirring and the mixture was stirred for two hours. After addition of 50 ml of 1N hydrochloric acid, the mixture was concentrated in vacuo. The residue was extracted with ethyl acetate and the extract was washed with water, dried and concentrated to dryness. The residue was crystallized from ethyl acetate-petroleum ether to give 610 mg of N-(4-chlorobenzyloxycarbonyl)-tyrosinol: yield 66%.

reactant | methyl N-(4-chlorobenzyloxycarbonyl)tyrosinate | 1.0 g | ClC1=CC=C(COC(=O)N[C@@H](CC2=CC=C(C=C2)O)C(=O)OC)C=C1 | C18H18ClNO5
reactant | sodium aluminium hydride | 280 mg | [H-].[Al+3].[Na+].[H-].[H-].[H-]
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-(4-chlorobenzyloxycarbonyl)-tyrosinol | 610 mg, yield 66% | ClC1=CC=C(COC(=O)N[C@@H](CC2=CC=C(C=C2)O)CO)C=C1 | C17H18ClNO4
